US07652004B2
13-cyclohexyl-3-methoxy-6-(4-(4-morpholinylcarbonyl)-1,3-oxazol-5-yl)-N-(4-morpholinylsulfonyl)-7H-indolo[2,1-a][2]benzazepine-10-carboxamide
13-Cyclohexyl-3-methoxy-6-(4-(4-morpholinylcarbonyl)-1,3-oxazol-5-yl)-7H-indolo[2,1-a][2]benzazepine-10-carboxylic acid (40.8 mg, 0.072 mmol) was dissolved in THF (1 ml) and CDI (26 mg, 0.160 mmol) added to the reaction. The reaction was capped under a nitrogen atmosphere and stirred at room temperature for 50 min then heated in an oil bath at 60 C for 1.5 hrs. The reaction was cooled and propane-2-sulfonamide (46 mg, 0.373 mmol) was added to the reaction followed by DBU (0.022 ml, 0.144 mmol). The reaction was capped under a nitrogen atmosphere and heated at 65 C overnight (16 hr). The reaction was partitioned between dichloromethane and 1.0N aqueous hydrochloric acid. The organic layer was washed sequentially with 1N aqueous hydrochloric acid, 0.1M aqueous NaH2PO4. The organic layer was dried over sodium sulfate and solvent removed in vacuuo to yield 50 mg of an amorphous yellow solid. The title was purified on a Shimadzu high pressure liquid chromatography system employing Discovery VP software interfaced with a SCL-10A controller, SIL-10A autosampler and FRC-10A fraction collector. The sample was dissolved in acetonitrile/DMF (1:1) purified using a Waters Sunfire Prep C18 OBD, 5 uM 19 mm×100 mm column and monitored using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 25 mL/min, a gradient of 70 solvent A/30% solvent B to 0% solvent A/100% solvent B, a gradient time of 12 minutes with a run time of 15 minutes using % A=10% acetonitrile, 90% water, 0.1% TFA % B=90% acetonitrile, 10% water, 0.1% TFA solvent system. Removal of solvents and drying in vacuuo yielded 28.3 mg of a yellow solid. 1H NMR (500 MHz, CHLOROFORM-D) δ ppm 1.15-1.28 (m, 1.3H) 1.30-1.46 (m, 2.4H) 1.48-1.61 (m, J=16.48 Hz, 1.2H) 1.77 (d, J=9.77 Hz, 2.3H) 1.87-2.15 (m, 4.8H) 2.22-2.52 (m, 4.6H) 2.78-2.90 (m, 1.1H) 3.37-3.72 (m, 8.9H) 3.76 (s, 6.2H) 3.80-3.89 (m, 3.2H) 3.91 (s, 3.6H) 4.08 (s, 0.3H) 4.13-4.23 (m, 1.0H) 4.42 (d, J=13.73 Hz, 0.9H) 4.65 (d, J=14.95 Hz, 0.1H) 5.55 (d, J=14.04 Hz, 1.0H) 6.97 (d, J=2.44 Hz, 1.0H) 7.07 (dd, J=8.70, 2.59 Hz, 1.0H) 7.27-7.33 (m, 0.2H) 7.38 (s, 0.1H) 7.46-7.55 (m, 2.0H) 7.60 (d, J=9.77 Hz, 1.0H) 7.78 (d, J=8.24 Hz, 0.1H) 7.83 (s, 1.0H) 7.87 (d, J=8.55 Hz, 1H) 8.07 (s, 0.1H) 8.10 (d, J=4.27 Hz, 0.1H) 8.31 (d, J=8.54 Hz, 0.1H) 8.42 (s, 0.9H) 8.94 (d, J=9.16 Hz, 0.1H) 9.55 (s, 0.9H) 9.60 (s, 0.1H). LC-MS retention time 1.63 min; 714 m/z (MH−). LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters Xterra MS 7u C18 3.0×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 3 min, a hold time of 1 min, and an analysis time of 4 min where solvent A was 5% acetonitrile/95% H2O/10 mM ammonium acetate and solvent B was 5% H2O/95% acetonitrile/10 mM ammonium acetate. MS data was determined using a Micromass Platform for LC in electrospray mode.

reactant | 13-Cyclohexyl-3-methoxy-6-(4-(4-morpholinylcarbonyl)-1,3-oxazol-5-yl)-7H-indolo[2,1-a][2]benzazepine-10-carboxylic acid | 0.072 mmol, 40.8 mg | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(C=C(C2)C2=C(N=CO2)C(=O)N2CCOCC2)C=C(C=C1)OC)C(=O)O | C33H33N3O6
reactant | CDI | 0.160 mmol, 26 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | propane-2-sulfonamide | 0.373 mmol, 46 mg | CC(C)S(=O)(=O)N | C3H9NO2S
reactant | DBU | 0.144 mmol, 0.022 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 13-cyclohexyl-3-methoxy-6-(4-(4-morpholinylcarbonyl)-1,3-oxazol-5-yl)-N-(4-morpholinylsulfonyl)-7H-indolo[2,1-a][2]benzazepine-10-carboxamide | 50 mg | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(C=C(C2)C2=C(N=CO2)C(=O)N2CCOCC2)C=C(C=C1)OC)C(=O)NS(=O)(=O)N1CCOCC1 | C37H41N5O8S
